* Source: https://github.com/chennakeshavadasa/Miller-Compensated-Two-stage-OPAMP-using-SKY130PDK
* File: Schematics/Two stage Opamp Test bench/2stageopamptry.spice
* License: MIT
** sch_path: /mnt/c/Users/NITHIN P/2stageopamptry.sch
**.subckt 2stageopamptry
XM1 net1 minus net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 vdiffout plus net2 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 net2 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 vout net3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=6.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vdiffout net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 vout vdiffout VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=17 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I0 VDD net3 30u
C1 vdiffout vout 3p m=1
C2 vout VSS 10p m=1
V1 VDD GND 1.8
V2 VSS GND -1.8
V4 net4 minus 0 AC 1
V5 plus net4 0 AC 1
V3 net4 GND 1.2
**** begin user architecture code

.lib /home/nithinpuru/pdk/volare/sky130/versions/cd1748bb197f9b7af62a54507de6624e30363943/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.ac dec 20 1 1e12
.save all

**** end user architecture code
**.ends
.GLOBAL GND
.end
