* Source: https://raw.githubusercontent.com/akilm/Standard-Cell-Library-skywater-130/main/Pre-Layout-Simulation/xor2_1x.cir
* Notes: Added m/nf parameters for multiplicity examples.
.option scale=1E-6
.include "/home/akil/sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice"
.include "/home/akil/sky130_fd_pr/models/r+c/res_typical__cap_typical.spice"
.include "/home/akil/sky130_fd_pr/models/corners/tt.spice"

X1 A_bar A 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=1
X2 Vdd A A_bar Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=2.3
X3 B_bar B 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=1
X4 Vdd B B_bar Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=2.3

X5 Vdd A N001 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6 m=2
X6 N001 B_bar Y N001 sky130_fd_pr__pfet_01v8 l=0.18 w=4.6 m=2
X7 Y A N002 N002 sky130_fd_pr__nfet_01v8 l=0.18 w=2 nf=2
X8 N002 B 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2 nf=2
X9 Vdd A_bar N003 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6 m=2
X10 N003 B Y N003 sky130_fd_pr__pfet_01v8 l=0.18 w=4.6 m=2
X11 Y A_bar N004 N004 sky130_fd_pr__nfet_01v8 l=0.18 w=2 nf=2
X12 N004 B_bar 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2 nf=2

CL Y 0 0.6pF
V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0.06n 0.06n 10.0n 20n)
V3 B 0 0
.tran 0.1n 100n
.end
